US04379154
A solution of chloromethylpyrazine (88 g) in ethanol (200 cc) is added dropwise and in the course of 15 minutes to a suspension of thiourea (68 g) in boiling ethanol (370 cc). After stirring for 1 hour 30 minutes at the boil, the reaction mixture is cooled for 15 hours at a temperature of about 5° C. The resulting crystals are filtered off, washed twice with ethanol (120 cc) and dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 20° C. 2-(Pyrazinylmethyl)-isothiourea hydrochloride (74 g), melting at 183° C., is thus obtained.

reactant | chloromethylpyrazine | 88 g | ClCC1=NC=CN=C1 | C5H5ClN2
reactant | thiourea | 68 g | NC(=S)N | CH4N2S
solvent | ethanol | 200 cc | C(C)O | C2H6O
solvent | ethanol | 370 cc | C(C)O | C2H6O
product | 2-(Pyrazinylmethyl)-isothiourea hydrochloride | 74 g | Cl.N1=C(C=NC=C1)CSC(N)=N | InChI=1S/C6H8N4S.ClH/c7-6(8)11-4-5-3-9-1-2-10-5;/h1-3H,4H2,(H3,7,8);1H
